US05965589
Sodium hydride (oily, 60%, 2.40 g) was added little by little to a solution of triethyl phosphonoacetate (12.3 g) in tetrahydrofuran (200 ml) at 0° C., and the mixture was stirred at 10 minutes. Then, 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde (14.7 g) was added, and the mixture was stirred at 0° C. for 1 hour. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel. The fractions eluted with ethyl acetate-hexane (1:3, v/v) gave crystals of ethyl 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamate (14.8 g, 81%). The crystals were recrystallized from ethanol. Colorless prisms, mp: 94-95° C.

reactant | Sodium hydride | 2.40 g | [H-].[Na+]
reactant | 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde | 14.7 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=O)C=CC1 | C18H15NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | ethyl 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamate | 14.8 g, 81% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=CC(=O)OCC)C=CC1 | C22H21NO4
